US07084231B2
Synthesis of 1,4-bis(trimethylsilylethynyl)-2,5-dimethoxybenzene [M-30]
100 g (0.338 mol) of 1,4-dibromo-2,5-dimethoxybenzene, 7.12 g (0.01 mol) of bistriphenylphospine palladium dichloride and 1.93 g (0.01 mol) of copper iodide were put into a 1 litter 3-neck round-bottom flask equipped with a stirrer, a thermometer and a reflux condenser under an argon atmosphere, and dissolved in 600 ml of diisopropylamine. 99 g (1 mol) of trimethylsilylacetylene was then slowly added dropwise at room temperature, and stirred at 80° C. for 12 hours. When the reaction was completed, the reaction mixture was cooled down to room temperature, generated salt was filtered off, and then the solvent was removed under a reduced pressure. The residue was dissolved in chloroform, and resultant was washed with water several times and then dried with anhydrous magnesium sulfate, which was then filtered off. The solvent was removed, and the residue was recrystallized from ethyl acetate/hexane mixture to obtain pale yellow crystal, which was sufficiently dried in a vacuum oven at 40° C. to give 82.5 g (yield: 73%) of the desired product, and its melting point was 164° C.–165° C.

reactant | 1,4-dibromo-2,5-dimethoxybenzene | 0.338 mol, 100 g | BrC1=C(C=C(C(=C1)OC)Br)OC | C8H8Br2O2
reactant | trimethylsilylacetylene | 1 mol, 99 g | C[Si](C)(C)C#C | C5H10Si
solvent | diisopropylamine | 600 ml | C(C)(C)NC(C)C | C6H15N
catalyst | copper iodide | 0.01 mol, 1.93 g | [Cu](I)I
product | 1,4-bis(trimethylsilylethynyl)-2,5-dimethoxybenzene | 82.5 g, yield: 73% | C[Si](C)(C)C#CC1=C(C=C(C(=C1)OC)C#C[Si](C)(C)C)OC | C18H26O2Si2
